US06352993B1
5,6-dimethyl-2-propylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After propylamine(0.43 ml, 5.22 mmol) and triethylamine(0.36 ml, 2.59 mmol) were added to a solution of 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine (0.5 g, 1.74 mmol) in dimethylformamide, 530 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | propylamine | 5.22 mmol, 0.43 ml | C(CC)N | C3H9N
reactant | triethylamine | 2.59 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 1.74 mmol, 0.5 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC=CC=C2CC1)C | C16H18ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-propylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 530 mg, Yield: 63.0% | Cl.CC=1C(=NC(=NC1C)NCCC)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C19H26N4.ClH/c1-5-11-20-19-21-14(3)13(2)18(22-19)23-12-10-16-8-6-7-9-17(16)15(23)4;/h6-9,15H,5,10-12H2,1-4H3,(H,20,21,22);1H
